US07229999B2
cis-5-(4-Chloro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(pyridin-4-ylmethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, 4-pyridinemethanol, (4-chloro-phenyl)-boronic acid and cis-2-aminomethyl-1-cyclohexanol as starting materials to yield cis-5-(4-chloro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(pyridin-4-ylmethoxy)-nicotinamide, MS (ISP) 452.1 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | 4-pyridinemethanol | N1=CC=C(C=C1)CO | C6H7NO
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | cis-2-aminomethyl-1-cyclohexanol | NC[C@@H]1[C@@H](CCCC1)O | C7H15NO
product | cis-5-(4-chloro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(pyridin-4-ylmethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NC[C@H]2[C@H](CCCC2)O)C1)OCC1=CC=NC=C1 | C25H26ClN3O3
